US05256675
A mixture of 4-chloromethyl-2-formylaminothiazole (1.76 g), 4-nitrothiophenol (1.7 g) and potassium carbonate (1.8 g) in N,N-dimethylformamide (20 ml) was heated at 100° C. with stirring. The reaction mixture was poured into ice-water and stirred at 5° C. for an hour. The precipitates were collected by filtration, washed with water and dried in vacuo to give 2-formylamino-4-(4-nitrophenylthiomethyl)thiazole (2.3 g, yield: 78%). mp: 158°-160° C. IR (Nujol): 3500, 1680, 1595, 1550, 1330 cm-1

reactant | 4-chloromethyl-2-formylaminothiazole | 1.76 g | ClCC=1N=C(SC1)NC=O | C5H5ClN2OS
reactant | 4-nitrothiophenol | 1.7 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | potassium carbonate | 1.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-formylamino-4-(4-nitrophenylthiomethyl)thiazole | 2.3 g, yield: 78% | C(=O)NC=1SC=C(N1)CSC1=CC=C(C=C1)[N+](=O)[O-] | C11H9N3O3S2
